US07598384B2
2-(Benzyl-methyl-amino)-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile
A solution of 2-chloro-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile (0.22 g, 0.94 mmol), benzyl(methyl)amine (0.17 g, 1.4 mmol) and triethylamine (0.14 ml, 0.1 g, 1.0 mmol) in ethyl alcohol (3 ml) was heated at reflux for 3 h. Then water (20 ml) was added and the mixture was extracted by dichloromethane. The extract was concentrated under reduced pressure and the residue was purified by column chromatography on silica gel (CH2Cl2-hexane, 1:1). The product obtained was recrystallized from ethyl alcohol to give the title compound (0.145 g, 48%).

reactant | 2-chloro-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 0.94 mmol, 0.22 g | ClC1=NC=2CC(CC(C2C=C1C#N)=O)(C)C | C12H11ClN2O
reactant | benzyl(methyl)amine | 1.4 mmol, 0.17 g | C(C1=CC=CC=C1)NC | C8H11N
reactant | triethylamine | 1.0 mmol, 0.14 ml, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | ethyl alcohol | 3 ml | C(C)O | C2H6O
product | 2-(Benzyl-methyl-amino)-7,7-dimethyl-5-oxo-5,6,7,8-tetrahydro-quinoline-3-carbonitrile | 0.145 g, 48% | C(C1=CC=CC=C1)N(C1=NC=2CC(CC(C2C=C1C#N)=O)(C)C)C | C20H21N3O
